US07276612B2
Synthesis of N-hydroxy-4-[2-(benzofuran-2-yl-carbonylamino)-ethoxy]-benzamide
A mixture of benzofuran-2-carboxylic acid (0.162 g, 1 mmol), EDC.HCl (0.268 g, 1.4 mmol) and HOBT.H2O (0.203 g, 1.5 mmol) in DMF (6 ml) was stirred for 2 h. Methyl 4-(2-aminoethoxy)benzoate hydrochloride (0.232 g, 1 mmol) was added followed by triethylamine (0.121 g, 1.2 mmol). The reaction mixture was stirred for 2 h and then diluted with ethyl acetate, washed with saturated sodium bicarbonate solution, and brine. The organic layer was concentrated in vacuo and the crude 4-[2-(benzofuran-2-ylcarbonylamino)ethoxy]-benzoate was converted to the title compound as described in Example 1, Step 5 above. 1H NMR (DMSO-d6) δ 11.05 (s, 1H), 8.92 (t, J=5.6 Hz, 1H), 8.88 (s, 1H), 7.76 (d, J=8.0 Hz, 1H), 7.70 (d, J=9.2 Hz, 2H), 7.64 (d, J=8.0 Hz, 1H), 7.55 (s, 1H), 7.46 (t, J 6.8 Hz, 1H), 7.32 (t, J=8.0 Hz, 1H), 7.01 (d, J=8.2 Hz, 2H), 4.18 (t, J=5.6 Hz, 2H), 3.67 (m, 2H). EM (calc.): 340.1; MS (ESI) m/e: (M+1H)+: 341.0, (M−1H)−: 339.1.

reactant | benzofuran-2-carboxylic acid | 1 mmol, 0.162 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | EDC.HCl | 1.4 mmol, 0.268 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.5 mmol, 0.203 g | O | H2O
reactant | Methyl 4-(2-aminoethoxy)benzoate hydrochloride | 1 mmol, 0.232 g | Cl.NCCOC1=CC=C(C(=O)OC)C=C1
reactant | triethylamine | 1.2 mmol, 0.121 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-hydroxy-4-[2-(benzofuran-2-yl-carbonylamino)-ethoxy]-benzamide | ONC(C1=CC=C(C=C1)OCCNC(=O)C=1OC2=C(C1)C=CC=C2)=O | C18H16N2O5
